US08334301B2
ethyl 1-(2-chlorophenyl)-5-({3-[(2-ethylhexyl)oxy]-3-oxopropyl}thio)-1H-pyrazole-3-carboxylate
A solution of ethyl 1-(2-chlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate (2.85 g), 2-ethylhexyl 3-mercaptopropionate (2.34 g) and N-ethyldiisopropylamine (1.85 g) in toluene (30 mL) was sufficiently deaerated, tris(dibenzylideneacetone)dipalladium (0) (327 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (414 mg) were added, and the mixture was further deaerated. Under an argon atmosphere, the reaction mixture was stirred at 110° C. for 4 hr, and allowed to cool to room temperature. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=19:1→7:1) to give the title compound as a yellow oil (yield 2.87 g, yield 86%).

reactant | ethyl 1-(2-chlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | 2.85 g | ClC1=C(C=CC=C1)N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC | C13H10ClF3N2O5S
reactant | 2-ethylhexyl 3-mercaptopropionate | 2.34 g | SCCC(=O)OCC(CCCC)CC | C11H22O2S
reactant | N-ethyldiisopropylamine | 1.85 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 414 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 327 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | ethyl 1-(2-chlorophenyl)-5-({3-[(2-ethylhexyl)oxy]-3-oxopropyl}thio)-1H-pyrazole-3-carboxylate | yield 2.87 g, yield 86% | ClC1=C(C=CC=C1)N1N=C(C=C1SCCC(=O)OCC(CCCC)CC)C(=O)OCC | C23H31ClN2O4S
